US04743291
A stirred mixture of 7.0 g (0.032 mole) of 2,5-dimethoxyphenylsulfonamide in 10 mL of 2-bromopropionyl chloride was heated at reflux for 40 minutes then allowed to cool to room temperature. The resultant solution was poured into petroleum ether. Crystals formed after scratching the sides of the flask and were collected by filtration. The filter cake was washed four times with fresh petroleum ether to yield 10.3 g of N-(2,5-dimethoxyphenylsulfonyl)-2-bromopropionamide (mp 116°-118° C.).

reactant | 2,5-dimethoxyphenylsulfonamide | 0.032 mole, 7.0 g | COC1=C(C=C(C=C1)OC)S(=O)(=O)N | C8H11NO4S
reactant | 2-bromopropionyl chloride | 10 mL | BrC(C(=O)Cl)C | C3H4BrClO
product | N-(2,5-dimethoxyphenylsulfonyl)-2-bromopropionamide | 10.3 g | COC1=C(C=C(C=C1)OC)S(=O)(=O)NC(C(C)Br)=O | C11H14BrNO5S
